US05910506
In a mixture of 5 ml of ethanol and 10 ml of 36% hydrochloric acid was dissolved 50 mg of 2-benzyloxymethyl-5-(3,5-dichlorophenylthio)-1-(5,6-dihydro-6-oxopyridin-3-ylmethyl)-4-isopropyl-1H-imidazole, and the mixture was stirred at 90° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. An aqueous sodium hydrogen carbonate solution was added, the mixture was extracted with ethyl acetate, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The crystals were washed with diethyl ether, filtered, and 10 mg of 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-1-(5,6-dihydro-6-oxopyridin-3-ylmethyl)-4-isopropyl-1H-imidazole (116a)was obtained (yield 24%). mp 220° C.

reactant | 2-benzyloxymethyl-5-(3,5-dichlorophenylthio)-1-(5,6-dihydro-6-oxopyridin-3-ylmethyl)-4-isopropyl-1H-imidazole | 50 mg | C(C1=CC=CC=C1)OCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)CC=1C=NC(CC1)=O | C26H25Cl2N3O2S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-1-(5,6-dihydro-6-oxopyridin-3-ylmethyl)-4-isopropyl-1H-imidazole | 10 mg, yield 24% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CC=1C=NC(CC1)=O)CO)C(C)C | C19H19Cl2N3O2S
